US07521446B2
Methyl (2E)(4S)-4-[(tert-butoxy)carbonylamino]pent-2-enoate
A solution of (2S)-2-[(tert-butoxy)carbonylamino]-N-methoxy-N-methylpropanamide (13.05 g, 56.18 mmol) in ethyl ether (560 mL) was chilled with an ice water bath and then 95% lithium aluminum hydride (2.80 g, 70.23 mmol) was added. The reaction was stirred at room temperature for 20 minutes and then a solution of aqueous potassium hydrogen sulfate (300 mL, 0.33M) was added. The resulting mixture was extracted three times with ethyl ether. The combined organic layers were washed three times with 1N hydrogen chloride, three times with saturated aqueous sodium hydrogen carbonate, and once with brine. The solution was then dried over anhydrous sodium sulfate, filtered, and the solvent evaporated. The resulting solid was dissolved in anhydrous tetrahydrofuran (430 mL) then added to a cold solution of trimethyl phosphonoacetate (27.3 mL, 168.5 mmol) and sodium hydride (112 mmol) in anhydrous tetrahydrofuran (130 mL) that had been previously stirred at room temperature for 30 minutes. The reaction was stirred for 5 minutes in a ice water bath, at room temperature for 20 minutes, and then water (500 mL) was added. The reaction mixture was diluted with brine and ethyl acetate, stirred, and the layers separated. The organic layer was dried over anhydrous sodium sulfate, filtered, and the solvent evaporated. The resulting residue was purified by chromatography on a normal phase silica gel column with 0-30% ethyl acetate in hexanes. Fractions containing clean product were combined and the solvent evaporated to give the title compound (8.85 g, 69%): ES-MS (m/z) 230.4 [M+1]+.

reactant | (2S)-2-[(tert-butoxy)carbonylamino]-N-methoxy-N-methylpropanamide | 56.18 mmol, 13.05 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N(C)OC)C | C10H20N2O4
reactant | lithium aluminum hydride | 70.23 mmol, 2.80 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium hydrogen sulfate | 0.33M, 300 mL | S(=O)(=O)(O)[O-].[K+]
reactant | trimethyl phosphonoacetate | 168.5 mmol, 27.3 mL | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | sodium hydride | 112 mmol | [H-].[Na+]
solvent | ethyl ether | 560 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 500 mL | O | H2O
product | Methyl (2E)(4S)-4-[(tert-butoxy)carbonylamino]pent-2-enoate | 8.85 g, 69% | C(C)(C)(C)OC(=O)N[C@H](/C=C/C(=O)OC)C | C11H19NO4
